US06562823B1
Step A: Preparation of 1,3-di-[(Methanesulfonyl)oxy]-5-[((methanesulfonyl)oxy)methyl]benzene
To a solution of 3,5-dihydroxybenzyl alcohol (5.23 g, 37.3 mmol) in 80 mL of dichloromethane at 0° C. was added triethylamine (26.0 mL, 187 mmol), followed by methanesulfonic anhydride (26.02 g, 149 mmol). After 3.5 hours, the solution was concentrated in vacuo, then partitioned between EtOAc and saturated NaHCO3 solution. The organic layer was washed with water and brine, dried (Na2SO4), filtered, and concentrated in vacuo. The product was used without further purification.

reactant | 3,5-dihydroxybenzyl alcohol | 37.3 mmol, 5.23 g | OC=1C=C(CO)C=C(C1)O | C7H8O3
reactant | triethylamine | 187 mmol, 26.0 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 149 mmol, 26.02 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 1,3-di-[(Methanesulfonyl)oxy]-5-[((methanesulfonyl)oxy)methyl]benzene | CS(=O)(=O)OC1=CC(=CC(=C1)COS(=O)(=O)C)OS(=O)(=O)C | C10H14O9S3
